US20010014737A1
d) Methyl (±)-3-carbomethoxy-4-[2-bis(tert-butoxycarbonyl)aminomethyl-4-methoxyphenyl ]butanoate
A pressure vessel charged with methyl (±)-3-carbomethoxy-4-[2-bis(tert-butoxycarbonyl) aminomethyl-4-methoxyphenyl]-3-butenoate (11.8 g), ethyl acetate (120 mL), and 10% palladium on charcoal (1 g) was shaken under 45 psi of hydrogen for 18 hr. The mixture was then filtered and the filtrate was concentrated to give the title compound (12 g, 100%) as a colorless oil: 1H NMR (CDCl3) 8 7.00 (d, J=8.2 Hz, 1 H), 6.71 (m, 2 H), 4.81 (s, 2 H), 3.75 (s, 3 H), 3.66 (s,3 H), 3.63 (s, 3 H), 3.05 (m, 2 H), 2.73 (m, 2 H), 2.42 (dd,J=16.0, 4.8 Hz, 1 H), 1.44 (s, 18 H).

reactant | methyl (±)-3-carbomethoxy-4-[2-bis(tert-butoxycarbonyl) aminomethyl-4-methoxyphenyl]-3-butenoate | 11.8 g | C(=O)(OC)C(CC(=O)OC)=CC1=C(C=C(C=C1)OC)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H35NO9
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
product | Methyl (±)-3-carbomethoxy-4-[2-bis(tert-butoxycarbonyl)aminomethyl-4-methoxyphenyl ]butanoate | 12 g, 100% | C(=O)(OC)C(CC(=O)OC)CC1=C(C=C(C=C1)OC)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H37NO9
